US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-[4-(N-carbamoylmethyl-N-isopropyl-carbamoyl)-1,3-thiazol-2-yl]azetidine (6.52 g, 11.8 mmol) (obtained as described in Reference Example 49(3)) in anhydrous tetrahydrofuran (326 ml) was added a 1.0M solution of tetra-n-butylammonium fluoride in tetrahydrofuran (14.2 ml, 14.2 mmol) in an ice bath, and the mixture was stirred in the ice bath for 2 hours. After checking the completion of the reaction, the reaction mixture was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate:methanol (10:1) as the eluant to afford 1-[4-(N-carbamoylmethyl-N-isopropyl-carbamoyl)-1,3-thiazol-2-yl]-3-hydroxyazetidine (2.35 g, yield 67%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-[4-(N-carbamoylmethyl-N-isopropyl-carbamoyl)-1,3-thiazol-2-yl]azetidine | 11.8 mmol, 6.52 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(N(C(C)C)CC(N)=O)=O | C28H36N4O3SSi
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 326 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 14.2 mmol, 14.2 ml | O1CCCC1 | C4H8O
product | 1-[4-(N-carbamoylmethyl-N-isopropyl-carbamoyl)-1,3-thiazol-2-yl]-3-hydroxyazetidine | 2.35 g, yield 67% | C(N)(=O)CN(C(=O)C=1N=C(SC1)N1CC(C1)O)C(C)C | C12H18N4O3S
